US07960409B2
Step 7: 7-(hydroxymethyl)-4-phenylquinoline-2-carbonitrile
To a solution of 7-formyl-4-phenylquinoline-2-carbonitrile (516 mg, 2.0 mmol) in THF (6 mL) and MeOH (2 mL) was added at 0° C. sodium borohydride (91 mg, 2.4 mmol). The mixture was stirred 1 h at 0° C., quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The compound was used as such for the next step. MS (+ESI): 262 (M+H)+.

reactant | 7-formyl-4-phenylquinoline-2-carbonitrile | 2.0 mmol, 516 mg | C(=O)C1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C17H10N2O
reactant | sodium borohydride | 2.4 mmol, 91 mg | [BH4-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
product | 7-(hydroxymethyl)-4-phenylquinoline-2-carbonitrile | OCC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C17H12N2O
